US05034530
Isopropyl imidazo[1,5-a]quinoxaline-3-carboxylate.
M.p. 205°-206° C., from 2-quinoxalinol and isopropyl isocyanoacetate. (Compound 3)

reactant | 2-quinoxalinol | N1=C(C=NC2=CC=CC=C12)O | C8H6N2O
reactant | isopropyl isocyanoacetate | [N+](#[C-])CC(=O)OC(C)C | C6H9NO2
product | Isopropyl imidazo[1,5-a]quinoxaline-3-carboxylate | C1=NC(=C2N1C1=CC=CC=C1N=C2)C(=O)OC(C)C | C14H13N3O2
